US08114871B2
A 0.25 M solution of SEM-Boc protected aminopyrrolopyrazole, E1(III-2) was prepared using anhydrous DMF as solvent. A 0.25 M solution of 3-ethylisoxazole-5-carboxylic acid was prepared using anhydrous DMF as solvent. A fresh 0.5 M solution of o-(7-azabenzotriazole-1-yl)-N,N,N′,N′-tetramethyl uronium hexafluorophosphate (HATU) was prepared in anhydrous DMF. To the reaction tube were added 320 μL (0.08 mmol, 1 equiv, 0.25M) of the 3-ethylisoxazole-5-carboxylic acid DMF solution prepared, 320 μL (0.080 mmol, 1 equiv, 0.25M) of SEM-Boc protected aminopyrrolopyrazole DMF solution prepared, and 40 μL (0.288 mmol, 3.6 equiv) neat TEA followed by the 160 μL (0.080 mmol, 1 equiv) of the HATU DMF solution. The reaction mixtures were stirred at 60° C. for 16 h. Then the tube was allowed to cool to room temperature. The solvents and volatiles from the tubes were removed in vacuo. To the residue were added 1 mL of EtOAc and 1 mL of 2M aqueous NaOH. After the tube was covered with Parafilm, the covered test tube was vigorously shaken until all residues have dissolved or the mixtures are completely homogenized. The agitation was stopped and the phases were allowed to separate completely. The supernatant organic layer (EtOAc layer) of each test tube was transferred into its corresponding receiving tube. EtOAc (0.5 mL) was added to the tube and extracted the organic layers after the agitation of the mixtures and these procedures were repeated twice. The solvent (EtOAc) and volatiles from the receiving tube were removed in vacuo until they were dry. To the residue was added 0.6 mL (2.4 mmol, 30 equiv) of 4M HCl in dioxane and the mixtures were stirred at room temperature for 2 h. Then the solvent, volatiles and HCl from the tube were removed in vacuo. To the residue were added 500 μL anhydrous DMA, 70 μL neat DIPEA (0.400 mmol, 5 equiv.). A 0.25 M solution of (3S,8aS)-3-methylhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carbonyl chloride, E1(VI), in anhydrous CH2Cl2 was prepared.

reactant | SEM-Boc | C(OCC[Si](C)(C)C)C(=O)OC(C)(C)C | C11H24O3Si
reactant | aminopyrrolopyrazole | NC=1N=NC=2C1N=CC2 | C5H4N4
reactant | SEM-Boc | 0.080 mmol, 0.25M, 320 μL, 1 equiv | C(OCC[Si](C)(C)C)C(=O)OC(C)(C)C | C11H24O3Si
reactant | aminopyrrolopyrazole DMF | NC=1N=NC=2C1N=CC2.CN(C)C=O
reactant | HATU DMF | 0.080 mmol, 160 μL, 1 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F.CN(C)C=O
reactant | HCl | 2.4 mmol, 4M, 0.6 mL, 30 equiv | Cl | ClH
reactant | DIPEA | 0.400 mmol, 70 μL, 5 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | (3S,8aS)-3-methylhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carbonyl chloride | C[C@@H]1N(C[C@H]2N(C1)CCC2)C(=O)Cl | C9H15ClN2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMA | 500 μL | CC(=O)N(C)C | C4H9NO
product | 3-ethylisoxazole-5-carboxylic acid | C(C)C1=NOC(=C1)C(=O)O | C6H7NO3
